US04698337
Phosphoryl chloride (0.96 g.), N,N-dimethylformamide (0.459 g.), tetrahydrofuran (12 ml.) and 2-(2-formamidothiazol-4-yl)-2-carbamoylmethoxyiminoacetic acid (syn isomer, 1.2 g.) were treated in a similar manner to that of Example 1-(1) to give an activated acid solution. After a suspension of 7-amino-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (1.75 g.) in 50% aqueous acetone (16 ml.) was adjusted to pH 7 to 8.5 with triethylamine, the activated acid solution was added to the stirred solution at -5° to 0° C. while keeping at pH 6.5 to 7.5 and stirred at the same temperature for 30 minutes. After removing the solvent from the resultant solution in vacuo, ethyl acetate was added to the residue. The solution was adjusted to pH 1.5 with 10% hydrochloric acid and the insoluble substance was filtered off. The filtrate was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated in vacuo. The residue was pulverized with diethyl ether to give 7-[2-(2-formamidothiazol-4-yl)-2-cyanomethoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 0.87 g.).

reactant | Phosphoryl chloride | 0.96 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | 0.459 g | CN(C=O)C | C3H7NO
reactant | 2-(2-formamidothiazol-4-yl)-2-carbamoylmethoxyiminoacetic acid | 1.2 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC(N)=O | C8H8N4O5S
reactant | 7-amino-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.75 g | NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O | C10H10N4O3S3
solvent | acetone | 16 ml | CC(=O)C | C3H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | 7-[2-(2-formamidothiazol-4-yl)-2-cyanomethoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.87 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)=NOCC#N | C18H14N8O6S4
